US09193935B2
1-(tert-Butyl)-4-[4-(4-methoxyphenyl)-2-methylbut-3-en-1-yl]benzene
A solution of (4-methoxyphenyl)methyltriphenylphosphonium bromide (2.40 g, 5.18 mmol, 1.0 equiv.) in THF (10 mL), was cooled to 0° C. After adding n-BuLi (1.6 M in hexanes, 3.2 mL, 5.18 mmol, 1.0 equiv.) at 0° C., the red suspension was stirred at 0° C. for 15 min. 3-(4-tert-Butylphenyl)-2-methylpropanal (1.59 g, 7.77 mmol, 1.5 equiv.) in THF (4 mL) was added, and the mixture was stirred at 0° C.→25° C. for 12 h. After addition of H2O at 25° C., the aqueous layer was extracted with hexanes, the combined organic phases were dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (cyclohexane/EtOAc 995:5→99:1) to yield 1.33 g (83%) of the title compound as a colorless oil.

reactant | (4-methoxyphenyl)methyltriphenylphosphonium bromide | 5.18 mmol, 2.40 g, 1.0 equiv. | [Br-].COC1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 5.18 mmol, 1.6 M, 3.2 mL, 1.0 equiv. | [Li]CCCC
reactant | 3-(4-tert-Butylphenyl)-2-methylpropanal | 7.77 mmol, 1.59 g, 1.5 equiv. | C(C)(C)(C)C1=CC=C(C=C1)CC(C=O)C | C14H20O
reactant | H2O | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-(tert-Butyl)-4-[4-(4-methoxyphenyl)-2-methylbut-3-en-1-yl]benzene | 1.33 g, 83% | C(C)(C)(C)C1=CC=C(C=C1)CC(C=CC1=CC=C(C=C1)OC)C | C22H28O
